US06797823B1
N-(2Chloro-4-{[7-methoxy-6-(3-morpholino-propoxy)4-quinazolinyl]oxy}phenyl)-N′-propylurea
A starting compound (N-(4-{[6-(3-propoxy)-7-methoxy-4-quinazolinyl]oxy}-2-chlorophenyl)-N′-propyl-urea, 54 mg), potassium carbonate (138 mg), and morpholine (0.017 ml) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at 120° C. for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was washed with ethyl acetate to give 42 mg (yield 77%) of the title compound.

reactant | N-(4-{[6-(3-propoxy)-7-methoxy-4-quinazolinyl]oxy}-2-chlorophenyl)-N′-propyl-urea | CCCOC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NCCC)Cl | C22H25ClN4O4
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 0.017 ml | N1CCOCC1 | C4H9NO
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-(2Chloro-4-{[7-methoxy-6-(3-morpholino-propoxy)4-quinazolinyl]oxy}phenyl)-N′-propylurea | 42 mg, yield 77% | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OCCCN1CCOCC1)OC)NC(=O)NCCC | C26H32ClN5O5
